US07326710B2
(IV-13) N1-(1-benzoylethyl)-N4-phenacyl piperazine dihydrochloride
A mixture of 3-bromo-1-phenylpropan-1-one (1.5 g, 8.9 mmol), N-phenacyl piperazine dihydrochloride (2.05 g, 7.4 mmol) and K2CO3 (21.75 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-13), 0.64 g (76%), mp 204-205° C., M+ 336.

reactant | 3-bromo-1-phenylpropan-1-one | 8.9 mmol, 1.5 g | BrCCC(=O)C1=CC=CC=C1 | C9H9BrO
reactant | N-phenacyl piperazine dihydrochloride | 7.4 mmol, 2.05 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 21.75 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-(1-benzoylethyl)-N4-phenacyl piperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)C(C)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C21H24N2O2.2ClH/c1-17(21(25)19-10-6-3-7-11-19)23-14-12-22(13-15-23)16-20(24)18-8-4-2-5-9-18;;/h2-11,17H,12-16H2,1H3;2*1H
